datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[C:6]([C:7]#[C:8][H:17])[H:16])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([C:7]#[C:8][H:17])[H:16])[H:9],151.586
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])([H:5])[H:6],69.7891
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([S:9])[H:12])([H:10])[H:11]>>[C:0]([C:1]([S:2][H:6])([H:5])[S:9][C:8](=[C:7]([H:10])[H:11])[H:12])([H:3])[H:4],-27.0705
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12],42.8442
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:9])[H:8])([H:6])[H:7],-5.35552
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18],99.1608
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14],14.644
[C:0](=[S:1])([H:2])[H:3].[H:4]>>[C:0](=[S:1])[H:3].[H:2][H:4],36.2334
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:17](=[C:18]([H:20])[H:21])[H:19],75.312
[S:0][C:1](=[S:2])[H:3]>>[H:3].[S:0]=[C:1]=[S:2],127.86304
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],3.17984
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10][C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:10](=[C:9]([H:12])[H:13])[C:11]([H:14])([H:15])[H:16])[H:5],19.7485
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[S:14]([C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])[H:23])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([S:14][H:22])([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])[H:23],61.7558
[I:0][H:1].[O:2][H:3]>>[H:1][O:2][H:3].[I:0],-7.9
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:8],39.5806
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([C:21]([O:22][O:23])([H:33])[H:34])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:23][O:22][C:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])([H:33])[H:34],66.944
[C:0](=[C:1]([N:2]=[O:3])[H:6])([H:4])[H:5].[H:7]>>[C:0](=[C:1]([N:2]=[O:3])[H:6])[H:5].[H:4][H:7],1.581552
[C:0](=[C:1]([O:2][C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([O:2][H:10])[H:6])([H:4])[H:5].[C:3]([H:7])([H:8])[H:9],103.903
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])([H:5])([H:6])[H:7],24.4346
